US06939990B2
1-Bromo-4-[bromo(difluoro)methyl]benzene
Under exclusion of oxygen, a solution of 14.0 g (67.63 mmol) of 1-bromo-4-(difluoromethyl)benzene (CAS 51776-71-7) and 25.3 g (142 mmol) of N-bromosuccinimide (NBS) in 190 ml of carbon tetrachloride is irradiated using a daylight lamp. During the radiation, the solvent reaches its boiling point. The mixture is irradiated under reflux for 24 hours. The mixture is then allowed to cool to room temperature, and precipitated succinimide is filtered off. Another 25 g of NBS are added to the filtrate, and the mixture is once more, under exclusion of oxygen, irradiated under reflux for 24 hours. After cooling, the mixture is again filtered and the filtrate is evaporated to dryness. This gives 18 g of a dark orange oil which is purified by vacuum distillation at 13 torr. This gives 12.7 g (44.4 mmol, 66% yield) of a colorless oil.

reactant | oxygen | O=O | O2
reactant | 1-bromo-4-(difluoromethyl)benzene | 67.63 mmol, 14.0 g | BrC1=CC=C(C=C1)C(F)F | C7H5BrF2
reactant | N-bromosuccinimide | 142 mmol, 25.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 190 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-4-[bromo(difluoro)methyl]benzene | 44.4 mmol, 12.7 g, 66% yield | BrC1=CC=C(C=C1)C(F)(F)Br | C7H4Br2F2
